US04710504
A mixture of 0.125 g (0.43 mmol) of (2RS, 10bSR)-N-methyl-2-(2-methylamino-1,3,4,6,7,10b-hexahydrothieno[2,3-a]quinolizin-2-yl)acetamide and 0.51 ml (1.72 mmol) of 3.4 M sodium bis (2-methoxyethoxy) aluminum hydride were reacted employing the procedure substantially described in Example 27 Step B to give 0.07 g (59%) of (2RS,10bSR)-2-methylamino-2-(2-methylaminoethyl)-1,3,4,6,7,10b-hexahydrothieno[2,3-a]quinolizine as a brown oil.

reactant | (2RS, 10bSR)-N-methyl-2-(2-methylamino-1,3,4,6,7,10b-hexahydrothieno[2,3-a]quinolizin-2-yl)acetamide | 0.43 mmol, 0.125 g | CNC(CC1(CC2C(C3=CC=CCN3CC2)S1)NC)=O | C15H23N3OS
reactant | sodium bis (2-methoxyethoxy) aluminum hydride | 1.72 mmol, 3.4 M, 0.51 ml | [H-].COCCO[Al+]OCCOC.[Na+].[H-]
product | (2RS,10bSR)-2-methylamino-2-(2-methylaminoethyl)-1,3,4,6,7,10b-hexahydrothieno[2,3-a]quinolizine | 0.07 g, 59% | CNC1(CC2C(C3=CC=CCN3CC2)S1)CCNC | C15H25N3S
